US06831081B2
Ethyl 3,7-Dimethyl-2-(morpholin-4-ylmethyl)-4-oxo-4,7-dihydrothieno[2,3-b]-pyridine-5-caboxylate.
Ethyl 4-hydroxy-3-methyl-2-(morpholin-4-ylmethyl)thieno[2,3-b]pyridine-5-carboxylate (Preparation 27, 1.47 g) and potassium carbonate (1.21 g) are suspended be in DMF (25 mL). The mixture is warmed until the ester dissolves and iodomethane (0.30 mL) is added. The reaction mixture is allowed to stir at room temperature for 20 h. The mixture is then poured into water (100 mL) and extracted with EtOAc (3×100 mL). The combined organic layers are washed with brine (2×25 mL), dried (Na2SO4), and partially concentrated. Hexanes are added and the resulting solid is filtered to afford 0.70 g of the title compound as a light yellow solids Physical characteristics. M.p. 172-173° C.; 1H NMR (400 MHz, DMSO-d6) δ 8.41, 4.19, 3.81, 3.65, 3.59, 2.48, 2.46, 1.27; MS (ESI+) m/z 351 (M+H)+. Anal. Found: C, 58.04; H, 6.54; N, 7.77; S, 8.97.

reactant | Ethyl 4-hydroxy-3-methyl-2-(morpholin-4-ylmethyl)thieno[2,3-b]pyridine-5-carboxylate | 1.47 g | OC1=C2C(=NC=C1C(=O)OCC)SC(=C2C)CN2CCOCC2 | C16H20N2O4S
reactant | potassium carbonate | 1.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.30 mL | IC | CH3I
reactant | water | 100 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Ethyl 3,7-Dimethyl-2-(morpholin-4-ylmethyl)-4-oxo-4,7-dihydrothieno[2,3-b]-pyridine-5-caboxylate | 0.70 g | CC1=C(SC=2N(C=C(C(C21)=O)C(=O)OCC)C)CN2CCOCC2 | C17H22N2O4S
